2169-03-13 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Urinary catheter fell out and pt. began complaining of pain unable to
   localize.
   Allergies:
   Ampicillin
   Rash;
   Ancef (Intraven.) (Cefazolin Sodium)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-3-13**] 01:16 AM
   Vancomycin - [**2169-3-13**] 01:36 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2169-3-13**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-13**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 92 (80 - 92) bpm
   BP: 129/63(78) {96/44(56) - 129/63(78)} mmHg
   RR: 19 (11 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,008 mL
                                                                  1,512 mL
   PO:
             TF:
   IVF:
                                                                      8 mL
                                                                  1,412 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    225 mL
   Urine:
                                                                    300 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                  1,287 mL
   Respiratory support
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   34 K/uL
   8.4 g/dL
   55 mg/dL
   1.6 mg/dL
   19 mEq/L
   5.4 mEq/L
   35 mg/dL
   116 mEq/L
   143 mEq/L
   25.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2169-3-13**]  04:57 AM
   WBC
   4.5
   Hct
   25.9
   Plt
   34
   Cr
   1.6
   Glucose
   55
   Other labs: CK / CKMB / Troponin-T:87//, ALT / AST:122/118, Alk Phos /
   T Bili:125/0.3, D-dimer:314 ng/mL, Albumin:3.4 g/dL, LDH:210 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   39 yo M w/ PMH of Sz, MDS, recurrent UTI, p/w AMS, thrombocytopenia and
   borderline positive U/A.
   .
   #. Altered mental status: Well below baseline. Most consistent with
   toxic/metabolic. Serum tox negative. Doubt represents TTP as has had
   thrombocytopenia for years, no schistocytes, Hct at baseline, Cr at
   baseline. Doubt that this represents Sz as his previous Sz were grand
   mal and he is able to follow simple commands. Also doubt focal Sz
   causing lip smacking as he is able to stop this to perform purposeful
   movements. Consider meningitis/encephalitis w/ low grade temps would be
   very difficult LP given baclofen pump. Per old records AMS is his
   classic presentation w/ UTI.
   - Consider LP by IR in am.
   - Neuro consult for EEG
   - f/u urine tox
   - vancomycin, meropenem, acyclovir.
   - f/u cultures
   .
   #. Thrombocytopenia: No platelet clumps on smear, no schistocytes on
   smear. ?drug effect. Hx of myleodysplasia per old d/c summary and BM
   biopsy from [**2164-11-5**]. Appears to be progressing, but plt counts had
   been around 70-120s at [**Location (un) 78**]. Could represent viral infection.
   - HIV
   - fibrinogen, ddimer
   - EBV, CMV
   - LDH, bilirubin, haptoglobin
   - Hematology consult
   .
   #. ?UTI: His classic presentation per last d/c summary is confusion.
   U/A not very impressive but given confusion, low grade temps will
   treat. Previous Serratia sp resistant to tetracyclines/bactrim and
   E.coli ESBL, both sensitive to imipenem.
   - meropenem
   - f/u blood, urine cultures from [**Hospital1 1**] and [**Location (un) 78**]
   .
   #. Anemia: Normocytic. Would be consistent with MDS and multilineage
   failure. Hct stable at baseline.
   - Hematology consult
   - continue home B12/folate
   - iron studies
   .
   #. OSA: will continue CPAP at home settings
   - Home CPAP
   .
   #. Sz disorder: Pt. taking oxcarbazepine for Sz's at home.
   Carbamazepine level here undetectable, most likely because pt. does not
   take carbamazepine.
   - oxcarbazepine level
   - Neuro consult
   .
   #Hypoglycemia: Unknown etiology given no Hx of DM and not taking
   insulin or hypoglycemics. Doubt liver failure given normal INR and
   bili. Renal function at baseline. Possibly surreptitious insulin
   administration, insulinoma or poor PO intake. Possible etiology of AMS.
   - Finger sticks QID
   -  c-peptide level
   .
   #Elevated Cardiac enzymes: Elevated at baselin to 0.09 but now at 0.22.
   Renal failure has worsened slightly. not complaining of chest pain, HD
   stable. EKG w/ slight lateral STD. Cards not impressed in ED.
   - Trend enzymes
   - repeat EKG in am
   .
   #Non-gap acidosis: Elevated Cl before administration of fluids. Would
   be c/w RTA.
   - Urine lytes for anion gap
   .
   #. FEN - NPO except meds for now
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx pneumoboots
   -Bowel regimen
   .
   #. Code - Confirmed full code
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-3-12**] 11:11 PM
   18 Gauge - [**2169-3-12**] 11:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-03-13 09:57:00 Physician Attending Progress Note
Chief Complaint: 39 yr man with quadraplegia s/p MVA [**2146**] admit for
   change in MS and concern for TTP
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   seizures, appendicvesicostomy, MDS. 3-4 days declining MS per family.
   UTI's generally result in change in MS. [**Name13 (STitle) 368**] been non-verbal over this
   period. ? Sinusitis on CT at [**Location (un) 78**] yesterday.  Vanco/Ceftiax, Flagyl,
   Acyclovir in ED. Held on LP for IR guidance. Troponin 0.22 in ED.
   24 Hour Events:
 NASAL SWAB - At [**2169-3-13**] 12:50 AM
   EKG this AM shows deepening lateral ST depressions with pos CPK MB.
   Followed by Cards. No signs hemolysis.
   CXR ? Aspiration v. multifocal pneumonia.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ampicillin
   Rash;
   Ancef (Intraven.) (Cefazolin Sodium)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-3-13**] 01:16 AM
   Vancomycin - [**2169-3-13**] 01:36 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2169-3-13**] 06:26 AM
   Other medications:
   nebs, oxcarbamezipine, flagyl, acyclovir, simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-13**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 99 (80 - 99) bpm
   BP: 117/69(81) {96/44(56) - 129/69(81)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,008 mL
                                                                  1,872 mL
   PO:
             TF:
   IVF:
                                                                      8 mL
                                                                  1,772 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    225 mL
   Urine:
                                                                    300 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                  1,647 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 87%
   ABG: ///19/
   Physical Examination
   Eyes / Conjunctiva: r Eye Prosthesis
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, appendicovesicostomy, baclofen pump
   Extremities: Right: Trace, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): None, Movement: Purposeful, Tone: Increased,
   with Clonus, Quadriparesis
   Labs / Radiology
   8.4 g/dL
   34 K/uL
   55 mg/dL
   1.6 mg/dL
   19 mEq/L
   5.4 mEq/L
   35 mg/dL
   116 mEq/L
   143 mEq/L
   25.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2169-3-13**]  04:57 AM
   WBC
   4.5
   Hct
   25.9
   Plt
   34
   Cr
   1.6
   TropT
   0.27
   Glucose
   55
   Other labs: CK / CKMB / Troponin-T:87/12/0.27, ALT / AST:122/118, Alk
   Phos / T Bili:125/0.3, D-dimer:314 ng/mL, Albumin:3.4 g/dL, LDH:210
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   This 39 year old man presents was seen in the ED 9 days ago after a
   fall from his wheelchair, striking his face. He underwent a CT of his
   head that was reportedly negative.Over the past 3 days he has become
   increasingly confused,being disorientation to place and time. He has
   also had growing anxiety and repetitive questioning. No history of
   fever or chills. Patient has an eye prothesis and is quadraplegic.
   C4 from MCC 21 years ago.
   At baseline is self sufficient. drives, shops, has MBA.
   VS: T:95.9 HR:79 Altered mental status with pancytopenia, sigs of MOF,
   elevated cardiac enzymes. concern for sepsis or TTP. Discussed with
   primary and then hospitalist who feels needfor heme-onc and
   intensivisits required medical center. Treated with IV ceftriaxone,
   vancomycin, and flagyl after cultures. U/A shows UTI ?
   [x]repeat UA negative (has suprapubic cath)
   [x]tox - possible but low likelihood seratonin syndrome
   hold zoloft/trazadone for now.
   [x ]neuro ? status
   per mom, seizures started 5 years ago. were gran mal. has not had 1 in
   [**11-25**] years. on trileptal
   CT at [**Location (un) 78**] was negative
   mental status very concerning for encephalitis - LP pending, covering
   with acyclovir
   ? CSF leak as a consequence of his facial trauma with subsequent
   meningo/encephalitis?
   Infiltrates on CXR - ? atelectasis v incipient infection - on broad
   spectrum coverage; repeat CXR. Consider BiPAP for intermittent
   hyperinflations
   Sleep Apnea - try to get patient ot use BiPAP again tonight
   [x]cards: cycle enzymes.
   not giving asa or plavix secondary to low plts
   Will consult cards
   History of MDS confirmed by BM Biopsy
   W/U for TTP negative  (no schistocytes, no platelet clumping)
   baclofen pump recently changed.per parents- change should have happened
   in last few weeks. unclear if this ocurred. ? baclofen withdrawl
   Cortrosyn Stim Test to r/o adrenal insufficiency from spontaneous
   adrenal hemorrhage related to his thrombocytopenia
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2169-3-12**] 11:11 PM
   18 Gauge - [**2169-3-12**] 11:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 70 minutes
   Patient is critically ill

2169-03-14 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   39 yo M w/ PMH of Sz, MDS, recurrent UTI, p/w AMS several days s/p
   facial trauma, thrombocytopenia and borderline positive U/A
   24 Hour Events:
   - Neurology attempted LP, unsuccessful.
   - Went to IR, had LP.
   - Transfused total 2 units of platelets.  PLT at 9pm 68
   - Concern that patient may be having complex partial seizures - patient
   had some lip smacking, responded to Ativan 0.5mg IV.
   - In light of seizure concern, patient was switched from Meropenem to
   Doripenem.
   - Continuous EEG ordered but was not done.
   - CSF studies done.  Gram stain negative.  Cx Pending.  HSV pending.
   - C-Peptide, IGF pending
   - [**Last Name (un) 1398**] stim WNL
   - [**Location (un) 78**] BCx, UCx show NGTD
   - Switched from Tegretol to Keppra.  Loaded 1g IV and started on 500mg
   IV BID as renal function may be changing.
   Allergies:
   Ampicillin
   Rash;
   Ancef (Intraven.) (Cefazolin Sodium)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-3-13**] 01:16 AM
   Vancomycin - [**2169-3-13**] 08:00 PM
   Acyclovir - [**2169-3-13**] 09:30 PM
   Metronidazole - [**2169-3-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-3-13**] 01:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-14**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.2
C (97.1
   HR: 70 (70 - 105) bpm
   BP: 156/77(97) {108/58(66) - 159/87(101)} mmHg
   RR: 12 (8 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,411 mL
                                                                    832 mL
   PO:
                                                                  1,200 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  3,875 mL
                                                                    332 mL
   Blood products:
                                                                    236 mL
   Total out:
                                                                  4,140 mL
                                                                    200 mL
   Urine:
                                                                  3,140 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                    632 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.36/40/61/25/-2
   Physical Examination
   Gen: Awake, eyes open, following simple commands, knows his name,
   unsure where he was
   HEENT: R eye prothesis, No conjunctival pallor. MMM. OP clear.
   CV: RRR
   LUNGS: CTAB, good BS BL anteriorly
   ABD: NABS. Soft, distended, NT. Suprapubic catheter in place, with no
   surrounding erythema.
   EXT: mild LE,  2+ pedal pulses.
   SKIN: Erythema on face w/ some scaling.
   NEURO: L eye EOMI.  CN II-XII intact with exception that no right EOM
   given R eye false. Sensation intact UE and unclear if sensation intact
   in LE as pt is inconsistent
   MSK: moving upper extremities
   Labs / Radiology
   67 K/uL
   7.4 g/dL
   71 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.7 mEq/L
   27 mg/dL
   112 mEq/L
   145 mEq/L
   21.8 %
   3.6 K/uL
        [image002.jpg]
                             [**2169-3-13**]  04:57 AM
                             [**2169-3-13**]  11:55 AM
                             [**2169-3-13**]  12:00 PM
                             [**2169-3-13**]  02:39 PM
                             [**2169-3-13**]  09:24 PM
                             [**2169-3-14**]  04:34 AM
   WBC
   4.5
   3.8
   3.6
   Hct
   25.9
   25.4
   21.8
   Plt
   34
   39
   49
   68
   67
   Cr
   1.6
   1.5
   TropT
   0.27
   0.27
   TCO2
   24
   Glucose
   55
   71
   Other labs: CK / CKMB / Troponin-T:102/10/0.27, ALT / AST:138/156, Alk
   Phos / T Bili:117/0.4, D-dimer:314 ng/mL, Albumin:3.4 g/dL, LDH:315
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   LP results
   -protein 484
   -glc 64
   LD 36
   .
   Tube #4
   WBC 111
   RBC [**Numeric Identifier 5500**]
   [**Numeric Identifier 5498**] 31
   Lymph 63
   M 5
   .
   Tube #1
   WBC 11
   RBC 3600
   [**Numeric Identifier 5498**] 8
   Lymph [**Age over 90 **]
   M 1
   Assessment and Plan
   39 yo M w/ PMH of Sz, MDS, recurrent UTI, p/w AMS several days s/p
   facial trauma, thrombocytopenia and borderline positive U/A.
   .
   #. Altered mental status: Ddx includes encephalitis, vs partially
   treated meningitis, vs seizures.  Pt did respond to lorazepam yesterday
   so it is possible that he was subtherapeutic on his seizure medications
   (especially if he had recently been on antibiotics and thus lowering
   his seizure threshold. Other possibility is that pt fell forward and
   hit eye allowing organisms to transverse into the CSF.  Pt is s/p IR
   guided LP on [**3-13**] which is unclear bacterial (high protein and
   increased WBC but normal glc)
   .
   SEIZURE:
   - EEG today to look for seizure activity
   - continue oxcarbazepin
   - f/u neurology recommendations
   .
   ENCEPHALITIS vs MENINGITIS
   - plan for MRI of head tomorrow to look for inflammation, spoke with
   [**Last Name (LF) **], [**First Name3 (LF) 5498**] who will interrogate the baclofen before and after the MRI
   - f/u neurology recommendations
   - conitnue  vancomycin, meropenem, acyclovir.
   - f/u cultures & CSF cx.  Will check to make sure CSF was sent for EBV
   and CMV
   -CSF unclear bacterial partially tx (increase protein and WBC) given pt
   on antibiotics vs viral as glc was normal which would  be inconsistent
   with bacterial meningitis
   .
   #. Thrombocytopenia: Could be progression of MDS.
   - HIV once able to consent
   - EBV, CMV, will check to ensure these were sent with CSF
   - Hematology consulted, f/u recommendations
   .
   #. ?UTI: Given Hx of confusion w/ UTIs will treat borderline U/A.  Has
   history of tetracycline/bactrim resistant serratia and ESBL ecoli
   -continue meropenem
   - f/u blood, urine cultures from [**Hospital1 1**] and [**Location (un) 78**]
   .
   #. Anemia: Hct dropped today.  Had previously dropped HCT in setting of
   fluid resuscitation. No signs of bleeding, no signs of hemolysis.
   - f/u hematology recommendations
   - recheck afternoon Hct, transfusion goal <21
   - continue home B12/folate
   .
   #. OSA: Possibly hypercarbia causing AMS
   - Continue home CPAP
   .
   #Hypoglycemia: had appropriate [**Last Name (un) **] stim.  Now on D5 with  normal blood
   sugars.
   - Finger sticks QID
   -  c-peptide level follow up, IGF labs follow up
   .
   #Elevated Cardiac enzymes: Troponin slightly trending up w/ increased
   STD in lateral leads, could be demand but not very tachycardic or
   hypertense. HD stable, doubt true thrombotic event as would expect
   larger increase in trop.  Cardiology consulted and unimpressed.
   -f/u cardiology recommendations.
   -will not start ASA given his thrombocytopenia
   .
   #. FEN
   -advance diet to clears
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx pneumoboots
   -Bowel regimen
   .
   #. Code - Confirmed full code
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition: advance diet to clears
   Glycemic Control:  qid finger sticks to ensure not hypoglycemic
   Lines:
   20 Gauge - [**2169-3-12**] 11:11 PM
   18 Gauge - [**2169-3-12**] 11:12 PM
   Prophylaxis:
   DVT: pneumoboots and thrombocytopenia
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2169-03-15 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -hematology feels anemia & pancytopenia likely due to marrow
   suppression secondary  to an infectious process superimposed on MDS.
   If counts do not recover after tx infection a repeat BM bx would be
   indicated.  (Meds: vancomycin, h2 blocker, statin can cause marrow
   suppression)
   -cardiology recs continue ASA, BB, statin.  said even if ACS would
   likely manage medically.
   -pt seen by ouch today and had baclofen pump interrogated, pt scheduled
   for MRI in the AM.  at time he leaves for MRI ouch should be paged b/c
   they need to interrogate the pump after
   -no new neuro recs??????????
   -HCT continue to be low got CT head, abd, pelvis
   -urine grew eneterococcus
   -normal echo
   -CT scan of head showed no sulci, ? edema but on old films, poor film
   very limited from artifact
   -CT abd/pelvis no rp bleed, focus in low mid abd 3.7 by 3.6 by 6cm left
   common iliac (bifurcation) could be blood.  has air in it- concerning
   that it could be infected. looks like could hematoma.  Is high
   density.  Extrensive calcification around hips bilaterally from prior
   hemorrhage but no current hemorrhage there.
   Allergies:
   Ampicillin
   Rash;
   Ancef (Intraven.) (Cefazolin Sodium)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-3-13**] 01:16 AM
   Vancomycin - [**2169-3-14**] 08:15 PM
   Acyclovir - [**2169-3-14**] 10:00 PM
   Metronidazole - [**2169-3-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-3-14**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-15**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 55 (55 - 75) bpm
   BP: 130/70(84) {106/62(75) - 170/110(123)} mmHg
   RR: 11 (7 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,360 mL
                                                                    213 mL
   PO:
                                                                  1,370 mL
             TF:
   IVF:
                                                                  1,990 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  4,030 mL
                                                                    950 mL
   Urine:
                                                                  4,030 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                   -737 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   6.9 g/dL
   68 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   25 mg/dL
   108 mEq/L
   143 mEq/L
   20.9 %
   3.2 K/uL
        [image002.jpg]
                             [**2169-3-13**]  04:57 AM
                             [**2169-3-13**]  11:55 AM
                             [**2169-3-13**]  12:00 PM
                             [**2169-3-13**]  02:39 PM
                             [**2169-3-13**]  09:24 PM
                             [**2169-3-14**]  04:34 AM
                             [**2169-3-14**]  01:49 PM
                             [**2169-3-14**]  07:47 PM
                             [**2169-3-15**]  04:42 AM
   WBC
   4.5
   3.8
   3.6
   3.1
   3.2
   Hct
   25.9
   25.4
   21.8
   20.9
   21.4
   20.9
   Plt
   34
   39
   49
   68
   67
   76
   68
   Cr
   1.6
   1.5
   1.4
   TropT
   0.27
   0.27
   TCO2
   24
   Glucose
   55
   71
   68
   Other labs: CK / CKMB / Troponin-T:102/10/0.27, ALT / AST:138/156, Alk
   Phos / T Bili:117/0.4, D-dimer:314 ng/mL, Albumin:3.4 g/dL, LDH:315
   IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   39 yo M w/ PMH of Sz, MDS, recurrent UTI, p/w AMS several days s/p
   facial trauma, thrombocytopenia and borderline positive U/A.
   .
   #. Altered mental status: Ddx includes encephalitis, vs partially
   treated meningitis, vs seizures.  Pt did respond to lorazepam yesterday
   so it is possible that he was subtherapeutic on his seizure medications
   (especially if he had recently been on antibiotics and thus lowering
   his seizure threshold. Other possibility is that pt fell forward and
   hit eye allowing organisms to transverse into the CSF.  Pt is s/p IR
   guided LP on [**3-13**] which is unclear bacterial (high protein and
   increased WBC but normal glc)
   .
   SEIZURE:
   - EEG today to look for seizure activity
   - continue oxcarbazepin
   - f/u neurology recommendations
   .
   ENCEPHALITIS vs MENINGITIS
   - plan for MRI of head tomorrow to look for inflammation, spoke with
   [**Last Name (LF) **], [**First Name3 (LF) 5498**] who will interrogate the baclofen before and after the MRI
   - f/u neurology recommendations
   - conitnue  vancomycin, meropenem, acyclovir.
   - f/u cultures & CSF cx.  Will check to make sure CSF was sent for EBV
   and CMV
   -CSF unclear bacterial partially tx (increase protein and WBC) given pt
   on antibiotics vs viral as glc was normal which would  be inconsistent
   with bacterial meningitis
   .
   #. Thrombocytopenia: Could be progression of MDS.
   - HIV once able to consent
   - EBV, CMV, will check to ensure these were sent with CSF
   - Hematology consulted, f/u recommendations
   .
   #. ?UTI: Given Hx of confusion w/ UTIs will treat borderline U/A.  Has
   history of tetracycline/bactrim resistant serratia and ESBL ecoli
   -continue meropenem
   - f/u blood, urine cultures from [**Hospital1 1**] and [**Location (un) 78**]
   .
   #. Anemia: Hct dropped today.  Had previously dropped HCT in setting of
   fluid resuscitation. No signs of bleeding, no signs of hemolysis.
   - f/u hematology recommendations
   - recheck afternoon Hct, transfusion goal <21
   - continue home B12/folate
   .
   #. OSA: Possibly hypercarbia causing AMS
   - Continue home CPAP
   .
   #Hypoglycemia: had appropriate [**Last Name (un) **] stim.  Now on D5 with  normal blood
   sugars.
   - Finger sticks QID
   -  c-peptide level follow up, IGF labs follow up
   .
   #Elevated Cardiac enzymes: Troponin slightly trending up w/ increased
   STD in lateral leads, could be demand but not very tachycardic or
   hypertense. HD stable, doubt true thrombotic event as would expect
   larger increase in trop.  Cardiology consulted and unimpressed.
   -f/u cardiology recommendations.
   -will not start ASA given his thrombocytopenia
   .
   #. FEN
   -advance diet to clears
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx pneumoboots
   -Bowel regimen
   .
   #. Code - Confirmed full code
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-3-12**] 11:11 PM
   18 Gauge - [**2169-3-12**] 11:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-03-15 16:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -hematology feels anemia & pancytopenia likely due to marrow
   suppression secondary  to an infectious process superimposed on MDS.
   If counts do not recover after tx infection a repeat BM bx would be
   indicated.  (Meds: vancomycin, h2 blocker, statin can cause marrow
   suppression)
   -cardiology recs continue ASA, BB, statin.  said even if ACS would
   likely manage medically.
   -pt seen by ouch today and had baclofen pump interrogated, pt scheduled
   for MRI in the AM.  at time he leaves for MRI ouch should be paged b/c
   they need to interrogate the pump after
   -HCT continue to be low got CT head, abd, pelvis
   -urine grew eneterococcus
   -normal echo
   -CT scan of head showed no sulci, ? edema but on old films, poor film
   very limited from artifact
   -CT abd/pelvis no rp bleed, focus in low mid abd 3.7 by 3.6 by 6cm left
   common iliac (bifurcation) could be blood.  has air in it- concerning
   that it could be infected. looks like could hematoma.  Is high
   density.  Extrensive calcification around hips bilaterally from prior
   hemorrhage but no current hemorrhage there.
   Allergies:
   Ampicillin
   Rash;
   Ancef (Intraven.) (Cefazolin Sodium)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-3-13**] 01:16 AM
   Vancomycin - [**2169-3-15**] 08:00 AM
   Metronidazole - [**2169-3-15**] 08:00 AM
   Acyclovir - [**2169-3-15**] 10:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-3-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-15**] 04:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 56 (52 - 71) bpm
   BP: 142/85(99) {106/62(75) - 160/86(103)} mmHg
   RR: 14 (8 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,360 mL
                                                                    872 mL
   PO:
                                                                  1,370 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,990 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  4,030 mL
                                                                  1,580 mL
   Urine:
                                                                  4,030 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                   -708 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Gen: A/Ox3, unable to perform serial sevens, describing color changes
   on the wall
   HEENT: stable bruising of R face
   Heart: RRR, II/VI systolic murmur
   Lungs: Decreased breath sounds in bases
   Abd: Soft, NT, ND, BS+, no masses
   Ext: contraction of hands bilaterally
   Labs / Radiology
   68 K/uL
   6.9 g/dL
   68 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   25 mg/dL
   108 mEq/L
   143 mEq/L
   20.9 %
   3.2 K/uL
        [image002.jpg]
                             [**2169-3-13**]  04:57 AM
                             [**2169-3-13**]  11:55 AM
                             [**2169-3-13**]  12:00 PM
                             [**2169-3-13**]  02:39 PM
                             [**2169-3-13**]  09:24 PM
                             [**2169-3-14**]  04:34 AM
                             [**2169-3-14**]  01:49 PM
                             [**2169-3-14**]  07:47 PM
                             [**2169-3-15**]  04:42 AM
   WBC
   4.5
   3.8
   3.6
   3.1
   3.2
   Hct
   25.9
   25.4
   21.8
   20.9
   21.4
   20.9
   Plt
   34
   39
   49
   68
   67
   76
   68
   Cr
   1.6
   1.5
   1.4
   TropT
   0.27
   0.27
   TCO2
   24
   Glucose
   55
   71
   68
   Other labs: CK / CKMB / Troponin-T:102/10/0.27, ALT / AST:123/117, Alk
   Phos / T Bili:115/0.4, D-dimer:314 ng/mL, Albumin:3.4 g/dL, LDH:315
   IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   39 yo M w/ PMH of Sz, MDS, recurrent UTI, p/w AMS several days s/p
   facial trauma, thrombocytopenia and fluid collection in pelvis.
   .
   #. Altered mental status: Significantly improved, almost back to
   baseline but still appears lethargic and was having some hallucinations
   this am. Most c/w toxic, metabolic syndrome likely [**12-26**] infection. Doubt
   Sz as gradually improving and did not appear to be sz on presentation,
   though did improve w/ lorazepam. Doubt meningitis though traumatic tap
   difficult to interpret, cultures remain negative. MRI today to evaluate
   for possible sinus connection w/ CSF. Will f/u HSV PCR and if negative
   stop acyclovir.
   - f/u CSF cultures
   - continue meropenem/vancomycin/acyclovir
   - f/u EEG read
   - f/u neuro recommendations
   .
   .
   #. Thrombocytopenia: Could be progression of MDS, 30 on presentation
   now back to recent baseline around 70.  per Heme/onc could be infection
   superimposed on MDS. Will need hematology follow up after d/c.
   - HIV once able to consent
   - f/u CMV/EBV
   - Hematology consulted, f/u recommendations
   .
   #. ?UTI: Doubt UTI as >100,000 enterococcus on culture at [**Hospital1 1**] and
   >100,000 GNR on culture at [**Location (un) **]. Likely contaminated.
   -continue meropenem, vanc
   - f/u blood, urine cultures from [**Hospital1 1**] and [**Location (un) 78**]
   .
   #. Anemia: Hct 30 on admission likely hemoconcentrated [**12-26**] poor PO
   intake while altered. Dropped to 25 then to 20. Was not having any
   bowel movements and CT abd/pelvis was negative for bleed. Hemolyis labs
   were also negative. He was transfused one unit.
   - f/u hematology recommendations
   - Transfuse to  goal >21
   - continue home B12/folate
   .
   #. OSA: Mask has not been fitting properly lately, ABG did not show
   hypercarbia
   - Assess mask for possible refit for home CPAP
   .
   #Hypoglycemia: Glucose on admission was initially 54 and glucose
   remained low the next day despite getting several amps of D50.  had
   appropriate [**Last Name (un) **] stim.  Now on D5 with  normal blood sugars. Most
   likely [**12-26**] poor PO intake, but will f/u c-peptide, insulin level and CT
   final read for ? insulinoma.
   - Finger sticks QID
   -  c-peptide level follow up, IGF labs follow up
   .
   #Elevated Cardiac enzymes: Troponin slightly trended up w/ increased
   STD in lateral leads the day after admission, could have been demand
   but not very tachycardic or hypertense. HD stable, doubt true
   thrombotic event as would expect larger increase in trop.  Cardiology
   consulted and did not believe that this was ACS and even so would
   manage medically.
   -f/u cardiology recommendations.
   -will not start ASA given his thrombocytopenia, possible interventions
   upcomming.
   .
   #. FEN
   -advance diet to clears
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx pneumoboots
   -Home Bowel regimen
   .
   #. Code - Confirmed full code
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-3-12**] 11:11 PM
   18 Gauge - [**2169-3-12**] 11:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: